US06872743B2
6-Methoxyindane-5-boronic acid
A solution of 1.06 g (4.69 mmol) of 5-bromo-6-methoxyindane in 10 mL of THF was cooled to −78° C. and treated in a dropwise manner with 2.90 mL (4.64 mmol) of 1.6 M n-BuLi in hexanes. The mixture was stirred for 1 hr and was treated with 1.90 mL (8.2 mmol) of triisopropyl borate. The reaction was allowed to warm slowly to 0° C. and was stirred at this temperature for 0.5 hr. The reaction was quenched by the careful addition of 12 mL of aq 1N HCl. The layers were separated and the aqueous layer extracted with EtOAc (3×50 mL). The combined organic layers were dried over Na2SO4, filtered, and concentrated in vacuo to afford 1.02 g. Flash chromatography (SiO2; 15% EtOAc in hexanes) gave 0.62 g (69%) of the title compound as a white solid. 1H NMR (DMSO-d6) δ 7.52 (s, 2H), 7.41 (s, 1H), 6.84 (s, 1H), 3.75 (s, 3H), 2.81 (t, J=7.3 Hz, 2H), 2.73 (t, J=7.3 Hz, 2H), 2.00-1.92 (m, 2H); IR (CHCl3) 3505 (br), 2945, 1612, 1570, 1487, 1465, 1417, 1297, 1252, 1161, 1129 cm−1; FDMS 192 (M+).

reactant | 5-bromo-6-methoxyindane | 4.69 mmol, 1.06 g | BrC=1C=C2CCCC2=CC1OC | C10H11BrO
reactant | n-BuLi | 4.64 mmol, 1.6 M, 2.90 mL | [Li]CCCC
reactant | triisopropyl borate | 8.2 mmol, 1.90 mL | B(OC(C)C)(OC(C)C)OC(C)C | C9H21BO3
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 6-Methoxyindane-5-boronic acid | 0.62 g, 69% | COC1=C(C=C2CCCC2=C1)B(O)O | C10H13BO3
